US09403807B2
Step A: methyl 2-(4-(tert-butoxycarbonylamino)-1H-indazol-1-yl)-2-(4-chlorophenyl)-4,4,4-trifluorobutanoate
A bottle flask was charged with NaH (580 mg, 14.4 mmol, 60% in oil) and then a solution of methyl 2-(4-(tert-butoxycarbonylamino)-1H-indazol-1-yl)-2-(4-chlorophenyl)acetate (3 g, 7.22 mmol), as described in Example 18 Step C, and 2,2,2-trifluoroethyl trifluoromethanesulfonate (3.35 g, 14.4 mmol) in THF (40 mL) at 0° C. The mixture was stirred for 30 min, quenched with saturated NH4Cl solution (10 mL), extracted with ethyl acetate. The organic layers were washed with brine (15 mL), dried over sodium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography (PE/EA=3:1) to afford the title compound as colorless oil. LC/MS m/z=498.1[M+H]+.

reactant | NaH | 14.4 mmol, 580 mg | [H-].[Na+]
reactant | methyl 2-(4-(tert-butoxycarbonylamino)-1H-indazol-1-yl)-2-(4-chlorophenyl)acetate | 7.22 mmol, 3 g | C(C)(C)(C)OC(=O)NC1=C2C=NN(C2=CC=C1)C(C(=O)OC)C1=CC=C(C=C1)Cl | C21H22ClN3O4
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 14.4 mmol, 3.35 g | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | methyl 2-(4-(tert-butoxycarbonylamino)-1H-indazol-1-yl)-2-(4-chlorophenyl)-4,4,4-trifluorobutanoate | C(C)(C)(C)OC(=O)NC1=C2C=NN(C2=CC=C1)C(C(=O)OC)(CC(F)(F)F)C1=CC=C(C=C1)Cl | C23H23ClF3N3O4
